US05410013
Synthesis of 2-chloro-5-(4'-fluorophenylsulfonyl)thiophene Monomer
This monomer was synthesized as described in Example 3 for 2-chloro-5-(4'-chlorophenylsulfonyl) thiophene with 1.6 moles of fluorobenzene being substituted for chlorobenzene. The synthesis produced white crystals with a Tm =89.9° C.

reactant | 2-chloro-5-(4'-chlorophenylsulfonyl) thiophene | ClC=1SC(=CC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C10H6Cl2O2S2
reactant | fluorobenzene | 1.6 moles | FC1=CC=CC=C1 | C6H5F
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-chloro-5-(4'-fluorophenylsulfonyl)thiophene | ClC=1SC(=CC1)S(=O)(=O)C1=CC=C(C=C1)F | C10H6ClFO2S2
